US07163958B2
41a. 1,3-Dioxobenzo(c)azolidin-2-yl(2S)-2-(6-methoxy(2-naphthyl))propanoate
A mixture of N-hydroxyphthalimide (7.1 g, 43.4 mmol), (2S)-2-(6-methoxy(2-naphthyl))propanoic acid (naproxen, 10 g, 43.4 mmol) and N,N-dimethylaminopyridine (DMAP, 5.3 g, 43.4 mmol) in CH2Cl2 (70 mL) and DMF (30 mL) at 0° C. was treated with 1-(3-(dimethylamino)propyl)-3-ethylcarbodiimide hydrochloride (8.3 g, 43.4 mmol) in CH2Cl2 (50 mL). The reaction mixture was stirred at room temperature for 16 hours and the solvent was evaporated under vacuum. The residue was then dissolved in EtOAc, washed with brine, dried over Na2SO4 and filtered. The residue after evaporation of the solvent was chromatographed on silica gel eluting with EtOAc hexane (1:1) to give the title compound (7.6 g, 47% yield) as a white solid. Mp 110–112° C. 1H NMR (300 MHz, d6-DMSO) δ 7.80–8.06 (m, 7H), 7.50 (dd, J=1.7 and 8.5 Hz, 1H), 7.32–7.37 (m, 1H), 7.20 (dd, J=2.5 and 9.0 Hz, 1H), 4.50 (q, J=7.1 Hz, 1H), 3.89 (s, 3H), 1.64 (d, J=7.1 Hz, 3H). 13C NMR (75 MHz, d6-DMSO) δ 171.2, 161.8, 157.5, 153.0, 135.5, 133.6, 133.5, 129.3, 128.4, 128.2, 127.3, 126.1, 126.0, 124.0, 119.0, 105.8, 55.2, 41.8, 18.6. Mass spectrum (API-TIS) m/z 376 (MH+), 393 (MNH4+).

reactant | N-hydroxyphthalimide | 43.4 mmol, 7.1 g | ON1C(C=2C(C1=O)=CC=CC2)=O | C8H5NO3
reactant | (2S)-2-(6-methoxy(2-naphthyl))propanoic acid | 43.4 mmol, 10 g | COC=1C=C2C=CC(=CC2=CC1)[C@@H](C(=O)O)C | C14H14O3
reactant | 1-(3-(dimethylamino)propyl)-3-ethylcarbodiimide hydrochloride | 43.4 mmol, 8.3 g | Cl.CN(CCCN=C=NCC)C
solvent | CH2Cl2 | 70 mL | C(Cl)Cl | CH2Cl2
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | 1,3-Dioxobenzo(c)azolidin-2-yl(2S)-2-(6-methoxy(2-naphthyl))propanoate | 7.6 g, 47% yield | COC=1C=C2C=CC(=CC2=CC1)[C@@H](C(=O)ON1C(C2=C(C1=O)C=CC=C2)=O)C | C22H17NO5
